US04339583
3-(4-Ethoxycarbonylbenzyloxy)-2-(1-imidazolylmethyl)pyridine (4.50 g) was heated in a solution of sodium hydroxide (0.70 g) in water (125 ml) for 100° C. for 2 hours. The solution was cooled and neutralized by the addition of 2 N hydrochloric acid. The solid product was collected by filtration and recrystallized from ethanol to give 3-(4-carboxybenzyloxy)-2-(1-imidazolylmethyl)pyridine (2.80 g), m.p. 210°-211° C. Found: C, 66.06; H, 4.74; N, 13.42. C17H15N3O3 requires: C, 66.01; H, 4.89; N, 13.59%.

reactant | 3-(4-Ethoxycarbonylbenzyloxy)-2-(1-imidazolylmethyl)pyridine | 4.50 g | C(C)OC(=O)C1=CC=C(COC=2C(=NC=CC2)CC=2NC=CN2)C=C1 | C19H19N3O3
reactant | sodium hydroxide | 0.70 g | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | water | 125 ml | O | H2O
product | 3-(4-carboxybenzyloxy)-2-(1-imidazolylmethyl)pyridine | 2.80 g | C(=O)(O)C1=CC=C(COC=2C(=NC=CC2)CC=2NC=CN2)C=C1 | C17H15N3O3
